US06251925B1
(R)-3′-[[2-[[2-(3-Chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]-[1,1′-biphenyl]-3,4-dicarboxylic acid as a yellow solid (205 mg);
n.m.r. (CD3OD) δ values include 2.97-3.00 (m,1 H), 3.43-3.45 (m, 2 H), 4.97 (dd, 1 H), 6.69 (d, 1 H), 6.97-6.99 (m, 2 H), 7.20-7.31 (m, 4 H), 7.42 (s, 1 H), 7.73 (d, 1 H), 8.19 (d, 1 H), 8.37 (s, 1 H); from (R)-3′-[[2-[[2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester dihydrochloride (500 mg), and lithium hydroxide monohydrate (303 mg).

reactant | (R)-3′-[[2-[[2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester dihydrochloride | 500 mg | Cl.Cl.COC(=O)C=1C=C(C=CC1C(=O)OC)C1=CC(=CC=C1)NCCNC[C@H](O)C1=CC(=CC=C1)Cl
reactant | lithium hydroxide monohydrate | 303 mg | O.[OH-].[Li+]
product | (R)-3′-[[2-[[2-(3-Chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]-[1,1′-biphenyl]-3,4-dicarboxylic acid | ClC=1C=C(C=CC1)[C@H](CNCCNC=1C=C(C=CC1)C1=CC(=C(C=C1)C(=O)O)C(=O)O)O | C24H23ClN2O5
